US07087754B2
1-(2-Fluorobenzyl)-4-(2-thienyl)-1H-pyrazolo[3,4-d]pyrimidine-6-amine (Example 28)
A stirred solution of 4-chloro-1-(2-fluorobenzyl)-1H-pyrazolo[3,4-d]pyrimidine-6-amine(139 mg, 0.5 mmol) in dry THF (10 mL) was treated with 2-thiopheneboronic acid (128 mg, 1.0 mmol), Pd(PPh3)4 (50 mg, 10 mol %) and saturated aqueous NaHCO3 solution (2 mL), refluxed for 30 min, diluted with H2O, extracted with EtOAc, dried MgSO4) and concentrated in vacuo. The resulting dark brown oil was purified by chromatography [SiO2; heptane:EtOAc (1:1) then (1:3)] to give the title compound (32 mg, 20%) as a cream solid.

reactant | 4-chloro-1-(2-fluorobenzyl)-1H-pyrazolo[3,4-d]pyrimidine-6-amine | 0.5 mmol, 139 mg | ClC1=C2C(=NC(=N1)N)N(N=C2)CC2=C(C=CC=C2)F | C12H9ClFN5
reactant | 2-thiopheneboronic acid | 1.0 mmol, 128 mg | S1C(=CC=C1)B(O)O | C4H5BO2S
reactant | NaHCO3 | 2 mL | C(=O)(O)[O-].[Na+]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | H2O | O | H2O
catalyst | Pd(PPh3)4 | 50 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 1-(2-Fluorobenzyl)-4-(2-thienyl)-1H-pyrazolo[3,4-d]pyrimidine-6-amine | 32 mg, 20% | FC1=C(CN2N=CC=3C2=NC(=NC3C=3SC=CC3)N)C=CC=C1 | C16H12FN5S
